US04816452
d. Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(trans-4-chlorocyclohexyloxyimino)acetate
Ethyl 4-bromo- (Z)-2-(trans-4-chlorocyclohexyloxyimino)-3-oxobutyrate (730 mg) was treated with thiourea as described in Example 4d, to give the title compound (579 mg, 85%) m.p. 155° C. (ethyl acetate-hexane) (Found: C, 47.05; H, 5.02; N, 12.75; Cl, 10.8; S, 9.73. C13H18N3CLO3S requires C,47.1; H, 5.4; N, 12.7; Cl, 10.7; S, 9.7%). νmax (Nujol) 3450, 3430, 3250, 3125, 1720, 1615, 1610, and 1540 cm-1, νH (CDCl3), 1.36 (3H, t, J 7.1 Hz), 1.73 (4H, m), 2.13 (4H, m), 4.18 (1H, m), 4.39 (2H, q, J 7.1 Hz), latter signal obscures single hydrogen multiplet, 5.5 (2H, s, exch. D2O), and 6.71 (1H, s).

reactant | Ethyl 4-bromo- (Z)-2-(trans-4-chlorocyclohexyloxyimino)-3-oxobutyrate | 730 mg | BrCC(/C(/C(=O)OCC)=N/O[C@@H]1CC[C@H](CC1)Cl)=O | C12H17BrClNO4
reactant | thiourea | NC(=S)N | CH4N2S
product | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(trans-4-chlorocyclohexyloxyimino)acetate | 579 mg | NC=1SC=C(N1)/C(/C(=O)OCC)=N/O[C@@H]1CC[C@H](CC1)Cl | C13H18ClN3O3S
